US07674797B2
To a solution of tert-butyl 3-(1H-1,2,4-triazol-1-ylmethyl)-1-piperazinecarboxylate (29.5 mg, 0.11 mmol) and di-isopropyl-ethyl amine (28.5 mg, 0.22 mmol) in THF (2 ml) was added 5-cyano-2-(3,5-dichlorophenoxy)benzenesulfonyl chloride (40.0 mg, 0.11 mmol). The mixture was stirred at 50° C. overnight. The solvent was removed and the residue was diluted with CHCl3, washed with sat. NaHCO3 aq. and brine. The organic layer was dried over MgSO4. The solvent was evaporated in vacuo, and the resulting residue was purified by prep. TLC (MeOH/CHCl3= 1/10) to give tert-butyl 4-{[5-cyano-2-(3,5-dichlorophenoxy)phenyl]sulfonyl}-3-(1H-1,2,4-triazol-1-yl methyl)-1-piperazine-carboxylate (42.5 mg, 64.9%): HPLC-MS (ESI): Calcd for C25H26Cl2N6O5S [M+H]+ 593, found: 593.

reactant | tert-butyl 3-(1H-1,2,4-triazol-1-ylmethyl)-1-piperazinecarboxylate | 0.11 mmol, 29.5 mg | N1(N=CN=C1)CC1CN(CCN1)C(=O)OC(C)(C)C | C12H21N5O2
reactant | di-isopropyl-ethyl amine | 0.22 mmol, 28.5 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-cyano-2-(3,5-dichlorophenoxy)benzenesulfonyl chloride | 0.11 mmol, 40.0 mg | C(#N)C=1C=CC(=C(C1)S(=O)(=O)Cl)OC1=CC(=CC(=C1)Cl)Cl | C13H6Cl3NO3S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-{[5-cyano-2-(3,5-dichlorophenoxy)phenyl]sulfonyl}-3-(1H-1,2,4-triazol-1-yl methyl)-1-piperazine-carboxylate | 42.5 mg, 64.9% | C(#N)C=1C=CC(=C(C1)S(=O)(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CN1N=CN=C1)OC1=CC(=CC(=C1)Cl)Cl | C25H26Cl2N6O5S
